US06008230
To a suspension of 1,4-dihydro-3-hydroxymethyl-5-methyl-8-nitro-4-oxoquinoline (1.12 g) in dichloromethane (10 ml) was dropwise added a solution of thionyl chloride (569 mg) in dichloromethane (5 ml) under ice-cooling, and the mixture was stirred for 1 hour at the same temperature and for 2 hours at ambient temperature. The mixture was concentrated in vacuo, suspended in dichloromethane-methanol and refluxed for 2 hours. The mixture was evaporated in vacuo, and the residue was recrystalized from methanol to give 1,4-dihydro-3-methoxymethyl-5-methyl-8-nitro-4-oxoquinoline (889 mg).

reactant | 1,4-dihydro-3-hydroxymethyl-5-methyl-8-nitro-4-oxoquinoline | 1.12 g | OCC1=CNC2=C(C=CC(=C2C1=O)C)[N+](=O)[O-] | C11H10N2O4
reactant | thionyl chloride | 569 mg | S(=O)(Cl)Cl | Cl2OS
reactant | dichloromethane | 10 ml | ClCCl | CH2Cl2
reactant | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 1,4-dihydro-3-methoxymethyl-5-methyl-8-nitro-4-oxoquinoline | 889 mg | COCC1=CNC2=C(C=CC(=C2C1=O)C)[N+](=O)[O-] | C12H12N2O4
